US05559230
To a solution of 1-[4-(2-chloroacetylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (2.06 g) in dimethylformamide (5 ml) are added sodium iodide (0.90 g), potassium carbonate (1.1 g) and cyclohexylamine (0.89 g), and the mixture is stirred at room temperature for 2 hours. Dimethylformamide is distilled off under reduced pressure and water is added to the resulting residue. The mixture is extracted with dichloromethane. The organic layer is washed successively with water and saturated saline solution, and dried over magnesium sulfate. The solvent is distilled off under reduced pressure and the resulting residue is purified by silica gel column chromatography (eluent; ethyl acetate), and recrystallized from n-hexane/ethyl acetate to give 1-[4-(2-cyclohexylaminoacetylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (2.03 g) as white powder, m.p. 139°-142° C.

reactant | 1-[4-(2-chloroacetylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 2.06 g | ClCC(=O)NC1=CC=C(C(=O)N2CCCCC3=C2C=CC=C3)C=C1 | C19H19ClN2O2
reactant | sodium iodide | 0.90 g | [I-].[Na+]
reactant | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexylamine | 0.89 g | C1(CCCCC1)N | C6H13N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-[4-(2-cyclohexylaminoacetylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 2.03 g | C1(CCCCC1)NCC(=O)NC1=CC=C(C(=O)N2CCCCC3=C2C=CC=C3)C=C1 | C25H31N3O2
